US05070086
Dissolve 2-chloro-3-pyridinylcarbonyl chloride (4.69g) in dichloromethane (25 ml), and add the solution to a stirred, cooled (ice bath) solution of 2-(2-chlorophenyl)methyl-imidazoline (4.30g) and diisopropylethylamine (7.69 ml) and dichloromethane (25 ml). Allow the resulting solution to stir 2 hours, then wash it with water, 1 M sodium bicarbonate solution, and with water. Dry the dichloromethane solution, using sodium sulfate, then filter and evaporate the solvent. Crystallize the residue from ethyl acetate to obtain 2-[(2-chlorophenyl)methyl]-1-[(2-chloro-3-pyridinyl) carbonyl]-4,5-dihydro-1H-imidazole, mp 128.5°-130° C.

reactant | 2-chloro-3-pyridinylcarbonyl chloride | 4.69g | ClC1=NC=CC=C1C(=O)Cl | C6H3Cl2NO
reactant | 2-(2-chlorophenyl)methyl-imidazoline | 4.30g | ClC1=C(C=CC=C1)CC=1NCCN1 | C10H11ClN2
reactant | diisopropylethylamine | 7.69 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2-[(2-chlorophenyl)methyl]-1-[(2-chloro-3-pyridinyl) carbonyl]-4,5-dihydro-1H-imidazole | ClC1=C(C=CC=C1)CC=1N(CCN1)C(=O)C=1C(=NC=CC1)Cl | C16H13Cl2N3O
